US04551460
6-(3-Quinolinyl)-5-hexyn-1-ol was prepared in the manner described above in Example 105 starting with 15.0 g of 3-bromoquinoline, 8.5 g of 5-hexyn-1-ol, 1.05 g of bis(triphenylphosphine)palladium dichloride and 0.10 g of cuprous iodide in 115 ml of dichloromethane and 28.5 ml of triethylamine. The crude product was chromatographed on a preparative high pressure liquid chromatograph eluting with 2.5% methanol-dichloromethane to give 14.4 g (89%) of 6-(3-quinolinyl)-5-hexyn-1-ol as a colorless oil. A portion was purified further on a silica thick layer plate eluting with 10% methanol-dichloromethane and solidified on drying, mp 47°-48° C.

reactant | 3-bromoquinoline | 15.0 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | 5-hexyn-1-ol | 8.5 g | C(CCCC#C)O | C6H10O
solvent | dichloromethane | 115 ml | ClCCl | CH2Cl2
solvent | triethylamine | 28.5 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium dichloride | 1.05 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-(3-quinolinyl)-5-hexyn-1-ol | 14.4 g, 89% | N1=CC(=CC2=CC=CC=C12)C#CCCCCO | C15H15NO
